US05849666
A4. Methyl 2-(N-tert-butylsulfamoyl)-4-(2-phenylacetylhydrazino)benzoate
1.5 g (7.3 mmol) of dicyclohexylcarbodiimide (DCC) are added to a solution of 2.0 g (6.6 mmol) of methyl 2-(N-tert-butylsulfamoyl)-4-hydrazinobenzoate, 0.9 g (6.6 mmol) of phenylacetic acid and 0.03 g of 4-dimethylaminopyridine (DMAP) in 20 ml of CH2Cl2 at 0° C. The mixture is stirred at 25° C. for 15 hours, the solid is filtered off with suction and the organic phase is washed successively with water, 1N HCl and NaHCO3 solution, dried and evaporated. This gives 1.6 g (58% of theory) of methyl 2-(N-tert-butylsulfamoyl)-4-(2-phenylacetyl-hydrazino)benzoate with the following nuclear magnetic resonance data:

reactant | dicyclohexylcarbodiimide | 7.3 mmol, 1.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methyl 2-(N-tert-butylsulfamoyl)-4-hydrazinobenzoate | 6.6 mmol, 2.0 g | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)NN | C12H19N3O4S
reactant | phenylacetic acid | 6.6 mmol, 0.9 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
catalyst | 4-dimethylaminopyridine | 0.03 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(N-tert-butylsulfamoyl)-4-(2-phenylacetylhydrazino)benzoate | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)NNC(CC1=CC=CC=C1)=O | C20H25N3O5S
